US09061030B2
To a solution of 2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)-5-(phenyldiazenyl)pyrimidine-4,6-diamine (Intermediate-7, 0.38 mmol) in DMF (2.5 mL) was added sodium hydroxide solution (2N, 3 equiv) and sodium dithionite (5.5 equiv). The reaction was heated to 150° C. and stirred for 2 h. The reaction mixture was diluted with CH2Cl2 and filtered. The filtrate was conc. and purified using SiO2 chromatography and an appropriate gradient (CH3CN/MeOH/CH2Cl2) to afford 2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-4,5,6-triamine as a tan solid (89% yield).

reactant | 2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)-5-(phenyldiazenyl)pyrimidine-4,6-diamine | 0.38 mmol | FC1=C(CN2N=C(N=C2C=2SC=CN2)C2=NC(=C(C(=N2)N)N=NC2=CC=CC=C2)N)C=CC=C1 | C22H17FN10S
reactant | sodium hydroxide | 2N, 3 equiv | [OH-].[Na+]
reactant | sodium dithionite | 5.5 equiv | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | CH3CN MeOH CH2Cl2 | CC#N.CO.C(Cl)Cl
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazol-3-yl)pyrimidin-4,5,6-triamine | 89% yield | FC1=C(CN2N=C(N=C2C=2SC=CN2)C2=NC(=C(C(=N2)N)N)N)C=CC=C1 | C16H14FN9S
